US05753679
0.75 g (0.00394 mol) of 1-benzyl-4-hydroxy-piperidine and 0.546 ml (0.00394 mol) of triethylamine were dissolved in 50 ml of toluene and treated with 1.0 g (0.00375 mol) of 2-iodo-benzoyl chloride. The mixture was boiled at reflux for 6 hrs., the precipitate was filtered off and the filtrate was concentrated. The residue was chromatographed over silica gel with ethyl acetate/hexane (4:5). 1.05 g (66%) of 1-benzyl-piperidin-4-yl 2-iodo-benzoate were obtained as yellow crystals; m.p. 73°-74°.

reactant | 1-benzyl-4-hydroxy-piperidine | 0.00394 mol, 0.75 g | C(C1=CC=CC=C1)N1CCC(CC1)O | C12H17NO
reactant | triethylamine | 0.00394 mol, 0.546 ml | C(C)N(CC)CC | C6H15N
reactant | 2-iodo-benzoyl chloride | 0.00375 mol, 1.0 g | IC1=C(C(=O)Cl)C=CC=C1 | C7H4ClIO
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 1-benzyl-piperidin-4-yl 2-iodo-benzoate | 1.05 g, 66% | IC1=C(C(=O)OC2CCN(CC2)CC2=CC=CC=C2)C=CC=C1 | C19H20INO2
